US07816522B2
After adding 541 mg of 2-fluoro-4-aminobenzonitrile [CAS No. 53312-80-4], 500 mg of MS3A, 493 mg of Yb(OTf)3 and 1.1 ml of trimethylsilyl cyanide to a solution of 795 mg of 3,4-dimethoxybenzaldehyde in 20 ml of THF under a nitrogen atmosphere, the mixture was stirred at room temperature for 14 hours. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. The organic layer was concentrated under reduced pressure to give a crude product of 4-{[cyano-(3,4-dimethoxyphenyl)methyl]amino}-2-fluorobenzonitrile.

reactant | 2-fluoro-4-aminobenzonitrile | 541 mg | FC1=C(C#N)C=CC(=C1)N | C7H5FN2
reactant | Yb(OTf)3 | 493 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | trimethylsilyl cyanide | 1.1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | 3,4-dimethoxybenzaldehyde | 795 mg | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-{[cyano-(3,4-dimethoxyphenyl)methyl]amino}-2-fluorobenzonitrile | C(#N)C(C1=CC(=C(C=C1)OC)OC)NC1=CC(=C(C#N)C=C1)F | C17H14FN3O2
